US08580968B2
methyl 2-thioxo-2,3-dihydrobenzo[d]oxazole-6-carboxylate
Methyl 4-amino-3-hydroxybenzoate (16.7 g, 100 mmol, Chemical Abstracts number 63435-16-5, available from Alfa Chemicals, 26 Parkridge Rd, Ward Hill, Mass. 01835-8099) and potassium O-ethyl carbonodithioate (20.8 g, 130 mmol) were combined in pyridine (100 mL) and refluxed for two hours. The reaction mixture was cooled to ambient temperature and the product was filtered, washed with water, and dried in a vacuum oven overnight at 45° C. to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.87 (d, 3 H) 7.34 (d, J=8.33 Hz, 1 H) 7.92 (d, J=1.59 Hz, 1 H) 7.97 (dd, J=12.69, 1.59 Hz, 1 H); MS (ESI−) m/z 207.9 (M−H)−.

reactant | Methyl 4-amino-3-hydroxybenzoate | 100 mmol, 16.7 g | NC1=C(C=C(C(=O)OC)C=C1)O | C8H9NO3
reactant | potassium O-ethyl carbonodithioate | 130 mmol, 20.8 g | C(OCC)(=S)[S-].[K+]
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2-thioxo-2,3-dihydrobenzo[d]oxazole-6-carboxylate | S=C1OC2=C(N1)C=CC(=C2)C(=O)OC | C9H7NO3S
